US08012974B2
A solution of 5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-ylamine (0.260 g, 0.98 mmol) in 15 mL of dichloromethane was cooled to −30° C. Phenethyl isocyanate (0.21 g, 1.5 mmol) was added, and the resulting solution was stirred at room temperature for 14 h, then concentrated to a residue. Column chromatography afforded 0.220 g (55%) of 1-phenethyl-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea.

reactant | 5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-ylamine | 0.98 mmol, 0.260 g | C[Si](CCOCN1C=CC=2C1=NC=C(N2)N)(C)C | C12H20N4OSi
reactant | Phenethyl isocyanate | 1.5 mmol, 0.21 g | C(CC1=CC=CC=C1)N=C=O | C9H9NO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1-phenethyl-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 0.220 g, 55% | C(CC1=CC=CC=C1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C | C21H29N5O2Si
